US09376442B2
4-(2-Ethoxy-5-fluorophenyl)-6-methyl-N-(1-propanoylpiperidin-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide
Starting from 4-(2-ethoxy-5-fluorophenyl)-6-methyl-N-(piperidin-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide (example D.f17) and commercially propionyl chloride the title compound is obtained as colorless solid.

reactant | 4-(2-ethoxy-5-fluorophenyl)-6-methyl-N-(piperidin-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C(C)OC1=C(C=C(C=C1)F)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)NC2CCNCC2 | C21H24FN5O2
reactant | propionyl chloride | C(CC)(=O)Cl | C3H5ClO
product | 4-(2-Ethoxy-5-fluorophenyl)-6-methyl-N-(1-propanoylpiperidin-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxamide | C(C)OC1=C(C=C(C=C1)F)C=1C2=C(N=CN1)C(=C(N2)C)C(=O)NC2CCN(CC2)C(CC)=O | C24H28FN5O3
